US05006570
Step I - Preparation of 6-chlorosulphonylchroman-8-carboxylic acid-Intermediate (D)
930 ml of chlorosulphonic acid were introduced into a 1-liter round-bottomed flask and 165 g of chroman-8-carboxylic acid were then added in small amounts, while maintaining the temperature between 0° C. and 10° C. by cooling. The solution was stirred for 1 hour at 10° C., and then allowed to stand overnight at ambient temperature. It was then poured in small amounts onto ice, while stirring and maintaining the temperature at 0° C. by cooling externally and by introducing ice into the flask.

reactant | chroman-8-carboxylic acid | 165 g | O1CCCC2=CC=CC(=C12)C(=O)O | C10H10O3
reactant | chlorosulphonic acid | 930 ml | ClS(=O)(=O)O | ClHO3S
product | 6-chlorosulphonylchroman-8-carboxylic acid | ClS(=O)(=O)C=1C=C2CCCOC2=C(C1)C(=O)O | C10H9ClO5S
